US07166607B2
i) (2,5-dimethyl-1H-indol-1-yl}acetic acid
60% sodium hydride/oil (0.64 g) was added to a solution of 2,5-dimethyl-1H-indole (2.0 g) in DMF (15 ml). After 15 min ethyl bromoacetate (2.7 ml) was added quickly and the reaction stirred for 20 min. The reaction mixture was quenched with 1% aqueous acetic acid (100 ml), extracted with ethyl acetate (2×100 ml) and washed with water (2×50 ml) and brine (20 ml). The extracts were dried (MgSO4), filtered and evaporated in vacuo to yield a brown solid. The solid was dissolved in EtOH (20 ml) and aqueous sodium hydroxide (1M,10 ml) added. After 1 hour the solution was adjusted to pH6 with aqueous hydrochloric acid (1M,˜10 ml), and then evaporated in vacuo. The residue was purified by flash column chromatography (gradient 1–10% methanol in dichloromethane). The sub-title compound was obtained as a red/brown solid (1.3 g).

reactant | sodium hydride | 0.64 g | [H-].[Na+]
reactant | 2,5-dimethyl-1H-indole | 2.0 g | CC=1NC2=CC=C(C=C2C1)C | C10H11N
reactant | ethyl bromoacetate | 2.7 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 1M, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M, ˜10 ml | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | EtOH | 20 ml | CCO | C2H6O
product | (2,5-dimethyl-1H-indol-1-yl}acetic acid | CC=1N(C2=CC=C(C=C2C1)C)CC(=O)O | C12H13NO2
